US04560684
A mixture of 4-amino-1-methylpiperidine (4.82 g, 32.3 mmol) and 4-fluoronitrobenzene (4.56 g, 32.3 mmol) is heated at 100° C. on an oil bath over a period of 7 hours. After cooling, the reaction mixture is mixed with 2N hydrochloric acid (20 ml) and water (20 ml) and shaken with ether. The acidic layer is neutralized with conc. ammoniac solution and shaken with methylene chloride. The methylene chloride layer is washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue is crystallized from ether-petroleum ether to give 4-(4-nitroanilino)-1-methylpiperidine (4.27 g) as crystals melting at 153° to 155° C. The yield is 56%.

reactant | 4-amino-1-methylpiperidine | 32.3 mmol, 4.82 g | NC1CCN(CC1)C | C6H14N2
reactant | 4-fluoronitrobenzene | 32.3 mmol, 4.56 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | hydrochloric acid | 2N, 20 ml | Cl | ClH
reactant | water | 20 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4-(4-nitroanilino)-1-methylpiperidine | 4.27 g, yield is 56% | [N+](=O)([O-])C1=CC=C(NC2CCN(CC2)C)C=C1 | C12H17N3O2
